US05789419
N-[3-(Trifluoromethyl)phenyl]-2-chloromethyl-2-methyl-propionamide:
Added to a solution of 16.1 g of 3-(trifluoromethyl)-aniline in methylene chloride were 16.7 ml of triethylamine, and 14.2 ml of 3-chloro-2,2-dimethylpropanoyl chloride were added dropwise under chilling with ice water. After stirring the mixture at room temperature for 1 hour, the resulting liquid reaction mixture was washed once each with water and saturated saline and dried on magnesium sulfate. Methylene chloride was distilled off, and the residue was purified by column chromatography on silica gel to obtain 28 g (yield: 100%) of the title compound.

reactant | 3-(trifluoromethyl)-aniline | 16.1 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | triethylamine | 16.7 ml | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-2,2-dimethylpropanoyl chloride | 14.2 ml | ClCC(C(=O)Cl)(C)C | C5H8Cl2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[3-(Trifluoromethyl)phenyl]-2-chloromethyl-2-methyl-propionamide | 28 g, yield: 100% | FC(C=1C=C(C=CC1)NC(C(C)(C)CCl)=O)(F)F | C12H13ClF3NO
